datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72]>>CC[O:33][C:22](=[CH:21][CH2:20][C:10]1([C:71](=[O:72])[O:82]CC)CCCC[C:62]1=[O:61])[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>CC[O:62][C:11]([CH:10]([Cl:20])[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:12].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C1=CC=C([C:11]2=[N:10]CCC[NH:12]2)C=C1>>C1=CC=C([C:11]2=[NH+:12]CCC[N:10]2[CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23,24;24,25=25"
CC[OH:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[OH+:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"CC[O:62]/[C:11](=[CH:10]/[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)[O-:12].C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:62][C:11]([CH:10]([C:20](C)(C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[H:10].C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[NH:10][NH:61]C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10](C)[NH:61]C)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72]>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.F[C-:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92]>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](F)([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F.[H:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].CN1C(C)(C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63]>>CC[O:50][C:22](=[CH:21][CH:20]([NH+:10]1C(C)(C)N(C)[C:62](=[O:63])[C@@H:61]1CC1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>[CH:10]1([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:11]=[CH:12][C:13]2=[C:14]1[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]2 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
